US07109192B2
136d) 2-bromo-3-(but-2-ynyl)-5-(4-methyl-quinazolin-2-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one
489 mg (1.5 mmol) of caesium carbonate were added to a solution of 300 mg (1.12 mmol) of 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one and 260.1 mg (1.35 mmol) of 2-chloromethyl-4-methyl-quinazoline in 4.0 ml of dimethylformamide and this mixture was stirred for 2 hours under an argon atmosphere at 80° C. Then it was diluted with 10 ml of water and stirred for 30 minutes at ambient temperature. The crude product precipitated was suction filtered and purified by column chromatography (silica gel; eluant:petroleum ether with 20–50% ethyl acetate).

reactant | caesium carbonate | 1.5 mmol, 489 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | 1.12 mmol, 300 mg | BrC=1N(C2=C(C=NNC2=O)N1)CC#CC | C9H7BrN4O
reactant | 2-chloromethyl-4-methyl-quinazoline | 1.35 mmol, 260.1 mg | ClCC1=NC2=CC=CC=C2C(=N1)C | C10H9ClN2
solvent | dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 2-bromo-3-(but-2-ynyl)-5-(4-methyl-quinazolin-2-ylmethyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | BrC=1N(C2=C(C=NN(C2=O)CC2=NC3=CC=CC=C3C(=N2)C)N1)CC#CC | C19H15BrN6O
